US06649381B1
Result indicates that PHA copolymer containing three units of 3-hydroxy-5-phenoxyvaleric acid (3HPxV), 3-hydroxy-7-phenoxyheptanoic acid (3HPxHp) and 3-hydroxy-9-phenoxynonanoic acid (3HPxN) can be produced by the strain YN2 with a substrate 11-phenoxyundecanoic acid.

reactant | 3-hydroxy-5-phenoxyvaleric acid | OC(CC(=O)O)CCOC1=CC=CC=C1 | C11H14O4
reactant | 3-hydroxy-7-phenoxyheptanoic acid | OC(CC(=O)O)CCCCOC1=CC=CC=C1 | C13H18O4
reactant | 3-hydroxy-9-phenoxynonanoic acid | OC(CC(=O)O)CCCCCCOC1=CC=CC=C1 | C15H22O4
product | 11-phenoxyundecanoic acid | O(C1=CC=CC=C1)CCCCCCCCCCC(=O)O | C17H26O3
